US05318966
2.65 g (0.0108 mol) of rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-propyl-1H-benzo[e]indole were dissolved in 0.15 l of 48% aqueous HBr and boiled under reflux for 1 hour. The mixture was concentrated and the residue was taken up in CH2Cl2 and extracted with a mixture of saturated NaHCO3 solution (100 ml) and a 2N NaOH solution (20 ml). The extracts were dried with MgSO4, filtered and concentrated. The pale rose oil (2.5 g) was dissolved in 40 ml of methanol. 2.05 ml (11.89 mmol) of 5.8N ethanolic HCl solution were added dropwise thereto and the mixture was stirred at room temperature for 1 hour and at 0° for 1 hour. The separated crystals were filtered off under suction and washed with ethyl acetate. After working-up the mother liquors there were obtained a total of 2.4 g (83%) of rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[ e]indol-6-ol hydrochloride as white crystals with m.p. 242°-244°.

reactant | rac-cis-2,3,3a,4,5,9b-hexahydro-6-methoxy-3-propyl-1H-benzo[e]indole | 0.0108 mol, 2.65 g | COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCC | C16H23NO
reactant | HCl | 11.89 mmol, 5.8N, 2.05 ml | Cl | ClH
solvent | HBr | 0.15 l | Br | BrH
product | rac-cis-2,3,3a,4,5,9b-hexahydro-3-propyl-1H-benzo[ e]indol-6-ol hydrochloride | 2.4 g, 83% | Cl.C(CC)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)O | InChI=1S/C15H21NO.ClH/c1-2-9-16-10-8-12-11-4-3-5-15(17)13(11)6-7-14(12)16;/h3-5,12,14,17H,2,6-10H2,1H3;1H/t12-,14+;/m1./s1
